US07671063B2
A solution of N-(2-{[1-dimethylamino-meth-(E)-ylidene]-sulfamoyl}-3-hydroxy-phenyl)-2,2-dimethyl-propionamide (600 mg, 1.84 mmol) in DMF (4 ml) is treated at 70° C. with allyl bromide (217 μl, 2.57 mmol) and K2CO3 (380 mg) for 45 min with stirring. After evaporation of the solvent, the residue is partitioned between water and EtOAc. The organic layer is dried (Na2SO4) and evaporated yielding N-(3-allyloxy-2-{[1-dimethylamino-meth-(E)-ylidene]-sulfamoyl}-phenyl)-2,2-dimethyl-propionamide.

reactant | N-(2-{[1-dimethylamino-meth-(E)-ylidene]-sulfamoyl}-3-hydroxy-phenyl)-2,2-dimethyl-propionamide | 1.84 mmol, 600 mg | CN(\C=N\S(=O)(=O)C1=C(C=CC=C1O)NC(C(C)(C)C)=O)C | C14H21N3O4S
reactant | allyl bromide | 2.57 mmol, 217 μl | C(C=C)Br | C3H5Br
reactant | K2CO3 | 380 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-(3-allyloxy-2-{[1-dimethylamino-meth-(E)-ylidene]-sulfamoyl}-phenyl)-2,2-dimethyl-propionamide | C(C=C)OC=1C(=C(C=CC1)NC(C(C)(C)C)=O)S(/N=C/N(C)C)(=O)=O | C17H25N3O4S
